### PR TITLE
Modules over monoids and total category of monoids

### PR DESCRIPTION
**Pull request by hugo-s29**
As part of an internship I am doing with @benediktahrens, I added the definitions of modules (and the category $`\mathrm{Mod}(R)`$ they form) over some monoid $`R`$ in a fixed monoidal category $`\mathcal{C}`$, some general examples of modules and a (partial) proof that the category of modules (over some fixed monoid) inherits its colimits from the base category $`\mathcal{C}`$. 

Benedikt suggested me to file a PR with my (partial) proofs to have feedback on how the code could be improved. I have tried to stick with the style guide.

The proof of colimits in $`\mathrm{Mod}(R)`$ is not fully written yet (what remains should be quickly proven), but getting feedback on how code could be improved should help me quite a bit for the rest of the proof. Also, this proof required some general lemmas on colimits that I added to the `Colimits.v` file.

### CODE REVIEW

File: UniMath/CategoryTheory/Limits/Graphs/Colimits.v [hunk 1]
```diff
@@ -668,3 +677,19 @@ Proof.
...
   exact (!(maponpaths pr1 q)).
 Qed.
+
+Lemma colimOfArrows_comp {C : precategory} {g : graph} {d1 d2 d3 : diagram g C}
+  (CC1 : ColimCocone d1) (CC2 : ColimCocone d2) (CC3 : ColimCocone d3)
+  (p : ∏ (u : vertex g), C⟦dob d1 u,dob d2 u⟧)
+  (q : ∏ (u : vertex g), C⟦dob d2 u,dob d3 u⟧)
+  (p_nat : ∏ u v e, dmor d1 e · p v = p u · dmor d2 e)
+  (q_nat : ∏ u v e, dmor d2 e · q v = q u · dmor d3 e)
+  (r : _)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Limits/Graphs/Colimits.v]: What is the type of `r`? It might be good to write it down

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 2]
```diff
@@ -0,0 +1,572 @@
...
+
+Import BifunctorNotations.
+
+Local Open Scope cat.
+Local Open Scope moncat.
+
+Section Modules.
+  Context {C : monoidal_cat}.
+
+  Local Definition m : monoidal C := monoidal_cat_to_monoidal  C.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: What are these local Definitions? Also, it might make sense to reuse some notations:
- https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Categories.v#L843
- https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Categories.v#L1330
I generally prefer using #⊗

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 3]
```diff
@@ -0,0 +1,572 @@
...
+    := (p ,, p_assoc ,, p_unit).
+
+  Definition module_to_module_subst (M : C) (p : module M) : C⟦ M ⊗ R, M ⟧ := pr1 p.
+  Coercion module_to_module_subst : module >-> precategory_morphisms.
+
+  Definition is_module_mor {M M' : C} (p : module M) (p' : module M') (r : M --> M') : UU
+    := r ⊗r R · p' = p · r.
+
+  Lemma isaprop_is_module_mor {M M' : C} (p : module M) (p' : module M') (r : C⟦M,M'⟧)
+      : isaprop (is_module_mor p p' r).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: The indenting is a bit off (too many spaces)

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 4]
```diff
@@ -0,0 +1,572 @@
...
+  Qed.
+
+  Lemma product_module_assoc (M D : C) (p : module M) : 
+    module_laws_assoc (α D M R · D ⊗l p).
+  Proof.
+    unfold module_laws_assoc.
+    etrans.
+    2: use (maponpaths (λ x, x · (α D M R · D ⊗^{ m}_{l} p))); [exact (α D M R ⊗r R · (D ⊗l p) ⊗r R) | now rewrite (bifunctor_rightcomp m)].
+    do 2 rewrite assoc.
+    transitivity (α (D ⊗ M) R R · ((D ⊗ M) ⊗l μ · α D M R) · D ⊗l p); [now rewrite assoc|].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: Could you simplify these proofs by using `etrans`?

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 5]
```diff
@@ -0,0 +1,572 @@
...
+    2: transitivity (α D M R ⊗r R · ((D ⊗l p) ⊗r R · α _ _ _) · D ⊗l p); [
+        use (maponpaths (λ x, α D M R ⊗r R · x · D ⊗l p));
+        now rewrite monoidal_associatornatleftright
+        |now rewrite assoc].
+    do 2 rewrite assoc.
+    transitivity (α _ _ _ ⊗r R · α _ _ _ · D ⊗l α _ _ _ · D ⊗l (M ⊗l μ) · D ⊗l p); [
+      use (maponpaths (λ x, x · D ⊗l (M ⊗l μ) · D ⊗l p));
+      now rewrite (monoidal_pentagonidentity m)|].
+    transitivity (α D M R ⊗r R · α D (M ⊗ R) R · (D ⊗l α M R R · D ⊗l (M ⊗l μ) · D ⊗l p)); [ now do 2 rewrite assoc|].
+    etrans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: You can use `{` and `}` to focus on the subgoals

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 6]
```diff
@@ -0,0 +1,572 @@
...
+      intros; cbn.
+      rewrite <- !assoc, assoc.
+      transitivity (_ ⊗l η · dmor F' e ⊗r _ · pr12 (dob F v)).
+      use (maponpaths (λ u, u · _)); do 2 rewrite @tensor_mor_left, @tensor_mor_right; use tensor_swap.
+      rewrite <- assoc; use maponpaths; use (pr2 (dmor F e)).
+    Qed.
+
+    Let rr := HR _ _ _ r.
+
+    Local Lemma lemma1 :
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: This name is not very informative, and it might be good to give it a more informative name

File: UniMath/CategoryTheory/Monoidal/Modules.v [hunk 7]
```diff
@@ -0,0 +1,572 @@
...
+      use two_arg_paths_f.
+      use funextsec; intro; cbn.
+      do 3 rewrite @tensor_mor_right.
+      now rewrite tensor_comp_id_r.
+
+      use proofirrelevance.
+      use isaprop_forms_cocone.
+    Qed.
+
+    Local Lemma lemma2 : ∏ u v e,
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Modules.v]: It might be good to rename this lemma

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 8]
```diff
@@ -0,0 +1,309 @@
...
+
+Import BifunctorNotations.
+
+Local Open Scope cat.
+Local Open Scope moncat.
+
+Section TotalCategoryOfModules.
+  Context {C : monoidal_cat}.
+
+  Local Definition m : monoidal C := monoidal_cat_to_monoidal  C.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v:30]: Here it would be god to reuse notation in UniMath (see my other comment)

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 9]
```diff
@@ -0,0 +1,309 @@
...
+
+  Lemma pullback_functor_funct_assoc
+    {R R' : C} {R_m : monoid m R} {R'_m : monoid m R'}
+    (M' : C) (p' : module R' R'_m M')
+    (f : R --> R') (f_m : is_monoid_mor m R_m R'_m f)
+    : module_laws_assoc R R_m (M' ⊗l f · p').
+  Proof.
+    unfold module_laws_assoc; do 2 rewrite assoc; rewrite (bifunctor_rightcomp m).
+    transitivity (α M' R R · (M' ⊗l (f ⊗⊗ f) · M' ⊗l μ R' R'_m) · p').
+    etrans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v]: What about using `{` and `}` to focus on the relevant goal?

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 10]
```diff
@@ -0,0 +1,309 @@
...
+
+  Definition pullback_functor_data
+    (R R' : C) (R_m : monoid m R) (R'_m : monoid m R')
+    (f : R --> R') (f_m : is_monoid_mor m R_m R'_m f)
+    : functor_data (MOD R' R'_m) (MOD R R_m).
+  Proof.
+    use make_functor_data.
+    - intro M; induction M as [M p].
+      exists M; cbn in *|-*.
+      use pullback_functor_funct.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v:112]: It might be good here to use `+` or `*` to focus on the relevant goal and to indicate the structure more clearly

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 11]
```diff
@@ -0,0 +1,309 @@
...
+  Proof.
+    induction RM as [R M].
+    exists (identity R).
+    induction R as [R R_m].
+    induction M as [M p].
+    exists (identity _); simpl.
+    use id_is_monoid_with_module_mor.
+  Defined.
+
+  Lemma comp_is_monoid_with_module_mor (R R' R'' : MON C)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v]: In this lemma, a lot of projections are used. It might be good to either use coercions or name accessors to increase the clarity

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 12]
```diff
@@ -0,0 +1,309 @@
...
+      use invmap; [|use path_sigma_hprop|].
+      use isaprop_is_module_mor.
+      rewrite transportf_total2; cbn; 
+      now rewrite transportf_const, id_left.
+    - eexists.
+      use invmap; [|use path_sigma_hprop|].
+      use isaprop_is_module_mor.
+      rewrite transportf_total2; cbn;
+      now rewrite transportf_const, id_right.
+      Unshelve.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v]: Why is `Unshelve` needed here?

**Review by nmvdw — COMMENTED** [review]
Thank you for your contribution! Overall, it looks good, and I added some comments.

**Comment by benediktahrens** [comment]
@nmvdw : thanks a lot for your feedback!

**Comment by hugo-s29** [comment]
Thank you for this feedback! I refactored the code using all your suggestions.
I managed to change most of the uses of `transitivity ...` to `etrans`, so the structure should be clearer.
Also, the last part of the proof (that I mentioned in my last message) is now complete. 
Let me know if you have other suggestions.

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v (hunk 12 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v]: it was due to the `eexists`, but I switched to `use tpair`, and the `Unshelve.` was not needed anymore.

**Comment by rmatthes** [comment]
Here are my five cents:

- The reworked definition of `pullback_functor_data` should better use "exact" in all places where "use" is an overkill - this is the case for the five "+" branches. Of course, they are just assumptions, but writing "assumption" is not good when putting data into an object (but this was already changed after the comments by Niels).

- I would consider it a good service to the UniMath library to show to what extent the present proposal is a generalization of the development in https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monads/LModules.v . In other words, to show that those constructions and results coincide (more or less intensionally) with the case described in  https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (or maybe a better description of that phenomenon).

**Comment by hugo-s29** [comment]
Thank you for your feedback!

> Here are my five cents:
> 
> * The reworked definition of `pullback_functor_data` should better use "exact" in all places where "use" is an overkill - this is the case for the five "+" branches. Of course, they are just assumptions, but writing "assumption" is not good when putting data into an object (but this was already changed after the comments by Niels).

Yes, I can switch to `exact` without any issue. As all the arguments are given explicitly, I think it may be even better to use `exact (pullback_functor_funct _ p _ f_m).` directly.

> * I would consider it a good service to the UniMath library to show to what extent the present proposal is a generalization of the development in https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monads/LModules.v . In other words, to show that those constructions and results coincide (more or less intensionally) with the case described in  https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (or maybe a better description of that phenomenon).

I agree, and I don't think it should take too long to prove some results, but it may come in a future pull-request.
By the way, should I rename the `Modules.v` to `LModules.v` for consistency with `Monads/LModules.v`?
(and similarly `TotalCategoriesOfLModules.v`)

**Comment by rmatthes** [comment]
> Thank you for your feedback!
> 
> > Here are my five cents:
> > 
> > * The reworked definition of `pullback_functor_data` should better use "exact" in all places where "use" is an overkill - this is the case for the five "+" branches. Of course, they are just assumptions, but writing "assumption" is not good when putting data into an object (but this was already changed after the comments by Niels).
> 
> Yes, I can switch to `exact` without any issue. As all the arguments are given explicitly, I think it may be even better to use `exact (pullback_functor_funct _ p _ f_m).` directly.

I agree that one single `exact` expression is the right thing to put. I am a bit reluctant to give wildcard arguments when instantiating a construction with data parameters since you lose a bit the precise control on the definition then (I do not speak about the implicit arguments that are uniquely determined by the other arguments and thus are no concern).

> 
> > * I would consider it a good service to the UniMath library to show to what extent the present proposal is a generalization of the development in https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monads/LModules.v . In other words, to show that those constructions and results coincide (more or less intensionally) with the case described in  https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (or maybe a better description of that phenomenon).
> 
> I agree, and I don't think it should take too long to prove some results, but it may come in a future pull-request. By the way, should I rename the `Modules.v` to `LModules.v` for consistency with `Monads/LModules.v`? (and similarly `TotalCategoriesOfLModules.v`)

If you did it right now (within this PR), you might see tiny differences between your more general and the previous development and might do tiny adjustments to get rid of them before "establishing" your generalization. Do not feel pushed towards that, though. Making the L visible in the file names would ask for calling the structures **left** modules at least in the description in the file header and the comments. I would consider this a good move.

**Comment by benediktahrens** [comment]
Could somebody fix the merge conflict? Then we can merge this PR before creating a new release.

**Comment by nmvdw** [comment]
> Could somebody fix the merge conflict? Then we can merge this PR before creating a new release.

Should be solved now

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v [hunk 13]
```diff
@@ -0,0 +1,287 @@
+(***************************************************************************
+
+ Total categories of modules
+
+ In this file, the total category of modules in some fixed monoidal category C.
+ Objects in such categories are pairs (R, M) where R is a monoid in C and M is
+ a module over R.
+
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v:8]: It could be good to refactor the code to use displayed categories. Not in this PR necessarily....

**Review by benediktahrens — APPROVED** [review]

**Comment by rmatthes** [comment]
Is renaming the two files and saying that this is all about left modules still on the table?

**Comment by benediktahrens** [comment]
> Is renaming the two files and saying that this is all about left modules still on the table?

Sure, if somebody takes care of it...

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v (hunk 13 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/TotalCategoriesOfModules.v:8]: Yes, I changed that, but I didn't add it to this pull request yet: this is part of the "module signature" formalisation that I did.

**Comment by nmvdw** [comment]
> > Is renaming the two files and saying that this is all about left modules still on the table?
> 
> Sure, if somebody takes care of it...

Do you mean that this will be done in another PR? If so, then this PR can be merged

**Comment by hugo-s29** [comment]
> Is renaming the two files and saying that this is all about left modules still on the table?

After looking at it this again over the weekend, I realized that the modules over monoids in `Modules.v` are actually *right*-modules and not *left*-modules. This makes proving the equivalence with `Monads/LModules.v` a bit more tricky; using reverse-composition would allow the equivalence, I think, but I don't know if this would help.
